US04450164
STEP A: Preparation of 3-dimethylaminomethyl-2-methyl-7-(2-phenylethyl)-imidazo[1,2-a]pyridine.
Into a one-liter flask there was placed 2-methyl-7-(2-phenylethyl)-imidazo[1,2-a]pyridine (112 g) dimethylamine hydrochloride (41.6 g), paraformaldehyde (15.23 g) and methanol (450 ml) and the mixture was refluxed with stirring for 1.5 hours. Thereafter the mixture was boiled, open to the air, for 3/4 hours. After cooling to room temperature and treatment with concentrated hydrochloric acid (45 ml) the mixture was stirred for 18 hours, filtered and the thick white solid mass formed was washed with methanol and 200 ml of anhydrous ether and dried.

reactant | 2-methyl-7-(2-phenylethyl)-imidazo[1,2-a]pyridine | 112 g | CC=1N=C2N(C=CC(=C2)CCC2=CC=CC=C2)C1 | C16H16N2
reactant | paraformaldehyde | 15.23 g | C=O | CH2O
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
product | 3-dimethylaminomethyl-2-methyl-7-(2-phenylethyl)-imidazo[1,2-a]pyridine | CN(C)CC1=C(N=C2N1C=CC(=C2)CCC2=CC=CC=C2)C | C19H23N3
